US04384118
3 grams of 2-methylthio-4-chloro pyrimidine in 30 ml of benzene was reacted with 3 ml of an aqueous 40% sodium hydroxide solution, 0.3 grams of triethyl benzyl ammonium chloride and 2 ml of propargyl alcohol. The resultant reaction mixture was refluxed with stirring for a period of 4 hours. Following, the mixture was cooled and 20 milliliters of water added, so resulting in separation of the benzene layer. Then, the solvent was evaporated under reduced pressure to yield 4.1 grams of 2-methylthio-4-propargyloxy pyrimidine melting at a temperature within the range of 70°-71° C. in ethanol.

reactant | 2-methylthio-4-chloro pyrimidine | 3 grams | CSC1=NC=CC(=N1)Cl | C5H5ClN2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | propargyl alcohol | 2 ml | C(C#C)O | C3H4O
reactant | water | 20 milliliters | O | H2O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
catalyst | triethyl benzyl ammonium chloride | 0.3 grams | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 2-methylthio-4-propargyloxy pyrimidine | 4.1 grams | CSC1=NC=CC(=N1)OCC#C | C8H8N2OS
